US06323235B1
Methyl 2-isopropyl-7-methoxy-3-oxo-2,3-dihydrobenzofuran-2-carboxylate
Potassium t-butoxide (5.62 g) was dissolved in DMF (150 ml) and the obtained solution was cooled to 0° C. To this solution, methyl 2-(2-formyl-6-methoxyphenoxy)isovalerate (11.10 g) solution in DMF (50 ml) was added dropwise for 40 minutes, and the resulting solution was stirred for another 30 minutes. Acetic acid (4 ml) was added to the reaction solution and the solution was concentrated. The resultant was poured into water layer (300 ml) and extracted twice with ethyl acetate (150 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the obtained residue was dissolved in dichloromethane (250 ml). To this solution, Celite (70 g) and pyridinium dichromate (23.55 g) were added and the solution was stirred at room temperature for 19 hours. Isopropyl alcohol (20 ml) was added to the reaction solution and the solution was stirred for 15 minutes. Ether (200 ml) was added to the solution and the solution was filtered through Celite, followed by washing the obtained precipitate with ether (100 ml twice). The filtrate was concentrated and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=5/1-3/1) using silica gel to obtain the desired compound (7.26 g, yield: 66%).

reactant | Potassium t-butoxide | 5.62 g | CC(C)([O-])C.[K+]
reactant | methyl 2-(2-formyl-6-methoxyphenoxy)isovalerate | 11.10 g | C(=O)C1=C(OC(C(=O)OC)C(C)C)C(=CC=C1)OC | C14H18O5
reactant | Acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 2-isopropyl-7-methoxy-3-oxo-2,3-dihydrobenzofuran-2-carboxylate | 7.26 g, yield: 66% | C(C)(C)C1(OC2=C(C1=O)C=CC=C2OC)C(=O)OC | C14H16O5
